US08110575B2
6-(3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidin-4,2′-inden]-5′-ylamino)pyrimidine-4-carboxylic acid
140 mg (0.37 mmol) ethyl 6-(3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidin-4,2′-inden]-5′-ylamino)pyrimidine-4-carboxylate, 5 mL ethanol and 1 mL (1.0 mmol) of a 1M NaOH solution were stirred for 2 h at RT. The reaction mixture was combined with 1 mL of a 1M hydrochloric acid solution and the ethanol was eliminated i.vac. The aqueous residue was cooled and the precipitated product was suction filtered, washed with water and dried.

reactant | ethyl 6-(3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidin-4,2′-inden]-5′-ylamino)pyrimidine-4-carboxylate | 0.37 mmol, 140 mg | CN1C(NC(C12CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)OCC)=O)=O | C19H19N5O4
reactant | NaOH | 1M | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-(3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidin-4,2′-inden]-5′-ylamino)pyrimidine-4-carboxylic acid | CN1C(NC(C12CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O)=O)=O | C17H15N5O4
